### PR TITLE
feat: add union on ExtDHashMap/ExtHashMap/ExtHashSet

### PR DESCRIPTION
**Pull request by wkrozowski**
This PR adds union operation on ExtDHashMap/ExtHashMap/ExtHashSet nd provides lemmas about union operations.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 12750d25b5651a87f3ec89d7ec2669c711cbac4f --onto 97d63db52cd2fc3353f8a75f48209de0011f1bd3`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-10-27 13:45:58)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 00e29075f38e5307b404b656805da137e5c52942 --onto 3e86729ee0e11548a47f9b294d5292ada92c0b40`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-03 16:26:52)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 00e29075f38e5307b404b656805da137e5c52942 --onto d47b474e41e4b134239ef70fa3c15778cc771bcf`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-10 12:42:15)

File: src/Std/Data/ExtDHashMap/Basic.lean [hunk 1]
```diff
@@ -77,13 +77,17 @@ abbrev mk (m : DHashMap α β) : ExtDHashMap α β :=
...
+  Quotient.lift₂ f h m₁.inner m₂.inner
+
 /-- Internal implementation detail of the hash map. -/
 def pliftOn {γ : Sort w} (m : ExtDHashMap α β) (f : (a : DHashMap α β) → m = mk a → γ)
     (h : ∀ a b h₁ h₂, a ~m b → f a h₁ = f b h₂) : γ :=
   m.1.pliftOn (fun a ha => f a (by cases m; cases ha; rfl)) (fun _ _ _ _ h' => h _ _ _ _ h')
 
 @[induction_eliminator, cases_eliminator, elab_as_elim]
-theorem inductionOn {motive : ExtDHashMap α β → Prop} (m : ExtDHashMap α β)
+theorem  inductionOn {motive : ExtDHashMap α β → Prop} (m : ExtDHashMap α β)
```
Comment (TwoFX) [inline src/Std/Data/ExtDHashMap/Basic.lean]: 😱

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 2]
```diff
@@ -2420,6 +2420,24 @@ theorem contains_of_contains_union_of_contains_eq_false_left [EquivBEq α]
   simp_to_model [union, contains] using List.contains_of_contains_insertList_of_contains_eq_false_left
 
 /- Equiv -/
+theorem union_equiv_congr_left {m₃ : Raw₀ α β} [EquivBEq α] [LawfulHashable α]
+    (h₁ : m₁.val.WF) (h₂ : m₂.val.WF) (h₃ : m₃.val.WF) (equiv : m₁.1.Equiv m₂.1) :
+    (m₁.union m₃).1.Equiv (m₂.union m₃).1 := by
+  revert equiv
+  simp_to_model [union]
+  intro equiv
+  apply @List.insertList_perm_of_perm_first _ _ _ _ (toListModel m₁.val.buckets) (toListModel m₂.val.buckets) (toListModel m₃.val.buckets) equiv
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: Why not just
```suggestion
    apply List.insertList_perm_of_perm_first equiv
```
